US05580865
2-Allyl-4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide (compound 7)
A solution of 4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide (100 mg) and allyl bromide (0.061 ml) was treated, at room temperature, with triethylamine (0.037 ml). After 2 hrs the reaction was over (TLC monitoring). Dilution with dichloromethane, washing with brine, drying over Na2SO4 and removal of the solvent left a residue which afforded the title compound as a white solide (60 mg) after flash chromatography.

reactant | 4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide | 100 mg | C(C)(C)(C)C(=O)C1=C(C(S([C@H]2N1C([C@@H]2OC)=S)(=O)=O)C2=NN=NN2C)C | C15H21N5O4S2
reactant | allyl bromide | 0.061 ml | C(C=C)Br | C3H5Br
solvent | triethylamine | 0.037 ml | C(C)N(CC)CC | C6H15N
product | 2-Allyl-4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide | C(C=C)C1(S([C@H]2N(C(=C1C)C(=O)C(C)(C)C)C([C@@H]2OC)=S)(=O)=O)C2=NN=NN2C | C18H25N5O4S2
